US07521457B2
b) 2-(2-amino-6-nitro-benzoylamino)-3-phenyl-propionic acid
1.04 g (3.03 mmol) methyl 2-(2-amino-6-nitro-benzoylamino)-3-phenyl-propionate are dissolved in 3 ml 20% ethanolic KOH and stirred for 1.5 h at 50° C. Then the solvent is eliminated in vacuo and the crude product is purified by chromatography. The carrier used is silica gel and the eluant used is dichloromethane, to which 15% of a mixture of 90% methanol and 10% saturated aqueous ammonia solution has been added.

reactant | methyl 2-(2-amino-6-nitro-benzoylamino)-3-phenyl-propionate | 3.03 mmol, 1.04 g | NC1=C(C(=O)NC(C(=O)OC)CC2=CC=CC=C2)C(=CC=C1)[N+](=O)[O-] | C17H17N3O5
solvent | KOH | 3 ml | [OH-].[K+]
product | 2-(2-amino-6-nitro-benzoylamino)-3-phenyl-propionic acid | NC1=C(C(=O)NC(C(=O)O)CC2=CC=CC=C2)C(=CC=C1)[N+](=O)[O-] | C16H15N3O5
